US04328155
A mixture of 2,4-dichlorobenzoic acid (67.4 g), absolute methanol (135 ml), and copper powder (3.37 g) is refluxed for 6-7 hours while introducing gaseous dimethylamine. The reaction mixture is mixed with a large amount of water, acidified with hydrochloric acid, and shaken with ether. The organic layer is washed with water, dried over sodium sulfate, and evaporated to remove the solvent. The residue is washed with isopropyl ether and filtered to give 2-methoxy-4-chlorobenzoic acid (43.6 g) as crystals melting at 139.5° to 141° C.

reactant | 2,4-dichlorobenzoic acid | 67.4 g | ClC1=C(C(=O)O)C=CC(=C1)Cl | C7H4Cl2O2
reactant | methanol | 135 ml | CO | CH4O
reactant | dimethylamine | CNC | C2H7N
reactant | hydrochloric acid | Cl | ClH
catalyst | copper | 3.37 g | [Cu] | Cu
solvent | ether | CCOCC | C4H10O
solvent | water | O | H2O
product | 2-methoxy-4-chlorobenzoic acid | 43.6 g | COC1=C(C(=O)O)C=CC(=C1)Cl | C8H7ClO3
